US05405990
A solution of di t-butyl 4-nitrobenzylcarbonyl-L-glutamate (9.7 g) in ethyl acetate (200 ml) was hydrogenated over 30% Pd/C (900 mg). The mixture was then filtered through Celite and evaporated to yield a yellow oil (di t-butyl 4-aminobenzylcarbonyl-L-glutamate) which was used without further purification. NMR: 8.23(d)1H; 6.92(d)2H; 6.50(d)2H; 4.86(s)2H; 4.15(m)1H; 3.24(s)2H; 2.22(m)2H; 1.8(m)2H); 1.4(d)18H. Yield 8.2 g 90%.

reactant | di t-butyl 4-nitrobenzylcarbonyl-L-glutamate | 9.7 g | [N+](=O)([O-])C(C[C@H](NC(=O)CC1=CC=CC=C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C21H30N2O7
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 900 mg | [Pd] | Pd
product | di t-butyl 4-aminobenzylcarbonyl-L-glutamate | NC(C[C@H](NC(=O)CC1=CC=CC=C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C21H32N2O5
